US09216980B2
6-Cyano-5-(1-ethylpiperidin-4-yloxy)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-3-carboxylic acid methyl ester
9-Benzenesulfonyl-3-bromo-5-(1-ethylpiperidin-4-yloxy)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile (150 mg, 0.278 mmol), molybdenum hexacarbonyl (73 mg, 0.278 mmol), Herman's catalyst (trans-di(μ-acetato)bis[(2-di-o-tolylphosphino)benzyl]dipalladium(II), 26 mg, 0.028 mmol) and tri-tert-butylphosphonium tetrafluoroborate (20 mg, 0.069 mmol) were placed in a 5 mL microwave vial. Dioxane (3 mL), methanol (1.5 mL) followed by 1,8-diazabicyclo(5.4.0)undec-7-ene (0.12 mL, 0.833 mmol) were added to the mixture, the tube sealed and heated under microwave irradiation at 150° C. for 15 min. The cooled reaction mixture was diluted with water and extracted into ethyl acetate (4×50 mL). The combined organic phase was washed with brine, dried over sodium sulfate and concentrated in vacuo to afford a residue that was purified by flash chromatography (silica, 12 g column, ISCO, 0-10% MeOH in DCM). The resultant material was triturated with MeOH and collected by filtration to afford the title compound as a pale yellow powder (29 mg, 28%). 1H NMR (CDCl3, 300 MHz): 9.35 (d, J=2.1 Hz, 1H), 9.23 (s, 1H), 8.83 (s, 1H), 5.21-5.06 (m, 1H), 4.05 (s, 3H), 3.07-2.88 (m, 2H), 2.59-2.44 (m, 2H), 2.41-2.06 (m, 6H), 1.20-1.07 (m, 3H). LCMS (Method H): RT=6.56 min, M+H+=380.

reactant | 9-Benzenesulfonyl-3-bromo-5-(1-ethylpiperidin-4-yloxy)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 0.278 mmol, 150 mg | C1(=CC=CC=C1)S(=O)(=O)N1C2=C(C3=C1C=NC(=C3OC3CCN(CC3)CC)C#N)C=C(C=N2)Br | C24H22BrN5O3S
reactant | tri-tert-butylphosphonium tetrafluoroborate | 0.069 mmol, 20 mg | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
reactant | Dioxane | 3 mL | O1CCOCC1 | C4H8O2
reactant | 1,8-diazabicyclo(5.4.0)undec-7-ene | 0.833 mmol, 0.12 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | water | O | H2O
catalyst | molybdenum hexacarbonyl | 0.278 mmol, 73 mg | [C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[Mo]
solvent | methanol | 1.5 mL | CO | CH4O
product | 6-Cyano-5-(1-ethylpiperidin-4-yloxy)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-3-carboxylic acid methyl ester | 29 mg, 28% | COC(=O)C1=CC2=C(NC3=C2C(=C(N=C3)C#N)OC3CCN(CC3)CC)N=C1 | C20H21N5O3
